data/pmechdb/original/mc_train_fold0/raw/train.txt
C[P:10](C)C.[Mg+:20]Cl>>C[P+:10](C)(C)[Mg:20]Cl 10=20,
[H:20][OH2+:21].CCO[C:11]1=[CH:10]C(C(C[O:12]1)(C)C)O>>[H:20][CH:10]1C(C(C[O+:12]=[C:11]1OCC)(C)C)O.[OH2:21] 10,11=10,20;20,21=21;12=11
CC[NH:10]CC.C[CH:20]=[N+:21](C)C>>CC[NH+:10](CC)[CH:20](C)[N:21](C)C 10=20;20,21=21
[H:20][N+:21](=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CCC6=CC=CC=C6)O)N.[OH-:10].C(COCCO)O.O>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4CCC6=CC=CC=C6)C(O2)C(=[N:21]N)CC5)O)C=C1.C(COCCO)O.O 10=20;20,21=21
CCCCCOCC1C(C[CH:20]([O:10]1)[N+:21]2=CC(=CC=C2)CC(C)C)O>>CCCCCOCC1C(C[CH:20]=[O+:10]1)O.CC(C)CC1=CC=C[N:21]=C1 10=20;20,21=21
[H:20][O:21]CC.[H:10][Na:11]>>CC[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][O+:21](C)C(C1=CC=CC=C1)([O-])Cl.[OH2:10]>>[H:20][OH2+:10].C[O:21]C(C1=CC=CC=C1)([O-])Cl 10=20;20,21=21
C[O-:10].CO[C:20](=[O:21])N>>CO[C:20](N)([O-:21])[O:10]C 10=20;20,21=21
[H:20][N:21](C)[CH:22]=[N+:23](C)[Si-](C)(C)(C)Cl.C[N:10]=C>>[H:20][N+:10](=C)C.C[N:21]=[CH:22][N:23](C)[Si-](C)(C)(C)Cl 10=20;22,23=23;20,21=21,22
CCC(CC1(CCCCC1=C)C[C:20](=[OH+:21])O)[OH:10]>>CCC1CC2(CCCCC2=C)C[C:20]([OH+:10]1)(O)[OH:21] 10=20;20,21=21
[BH3-:10][O+:11]=CCCC>>[BH3:10].CCCC=[O:11] 10,11=11
[H:20][O+:21](C)P(OC)(OC)Cl.C[OH:10]>>COP(OC)([O:21]C)Cl.[H:20][OH+:10]C 10=20;20,21=21
[H:20][OH+:21]C.CO[P:10](OC)Cl>>[H:20][P+:10](OC)(OC)Cl.C[OH:21] 10=20;20,21=21
C1=CC=C(C=C1)C[O:10][CH2:20][Cl:21].CO>>[CH2:20]=[O+:10]CC1=CC=CC=C1.[Cl-:21].CO 10=20;20,21=21
C1=CC=C([CH:11]=[CH:10]1)S(=O)(=O)O.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C1=C[CH:10]([CH+:11]C(=C1)S(=O)(=O)O)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21
[Li:11][C:10]1(SCCCS1)CC(COCC2=CC=C(C=C2)OC)O[Si](C)(C)C(C)(C)C.COC1=CC=C(C=C1)COCC2[CH2:20][O:21]2.CC(C)C>>[Li+:11].CC(C)(C)[Si](C)(C)OC(C[C:10]1(SCCCS1)[CH2:20]C(COCC2=CC=C(C=C2)OC)[O-:21])COCC3=CC=C(C=C3)OC.CC(C)C 10,11=10,20;20,21=21
CCCCCC1=C[C:21]2(C[CH2:20]2)[CH:22]=[CH:23][C:24]1=[O+:25]C.C(=[O:10])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCCCCC1=C[C:21](=[CH:22][CH:23]=[C:24]1[O:25]C)C[CH2:20][O+:10]=CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
[B-]([O:12][C:11]12[CH2:10]CCC[C+:20]1C3=CC=CC=C3N2)(F)(F)F>>[B-]([O+:12]=[C:11]1[C:20]2(CCC[CH2:10]2)C3=CC=CC=C3N1)(F)(F)F 10,11=10,20;12=11
[H:20][OH:21].C#CC(C1=CC=C(C=C1)OCCCCC2=CN(C=N2)C(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)[O:10][Mg]Br>>[H:20][O+:10](C(C#C)C1=CC=C(C=C1)OCCCCC2=CN(C=N2)C(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)[Mg]Br.[OH-:21] 10=20;20,21=21
CO[C:20](=[NH2+:21])OCCC[OH:10]>>CO[C:20]1([OH+:10]CCCO1)[NH2:21] 10=20;20,21=21
CCC(CCCNC(=O)CCl)(CC[C:20](=[O:21])CC1=C(C=CC=C1)[NH2:10])C=O.C(=O)(C(F)(F)F)O>>CCC(CCCNC(=O)CCl)(CC[C:20]1(CC2=C([NH2+:10]1)C=CC=C2)[O-:21])C=O.C(=O)(C(F)(F)F)O 10=20;20,21=21
CC1=C[CH:10]=[C:11](C=C1)OC.C1=CC=C(C=C1)[N+:21]#[N:20]>>CC1=C[CH:10]([C+:11](C=C1)OC)[N:20]=[N:21]C2=CC=CC=C2 10,11=10,20;20,21=21
C1=CC=C(C=C1)C[NH2:10].C1=CC=C(C=C1)C=C[CH:20]=[O:21].CO>>C1=CC=C(C=C1)C[NH2+:10][CH:20](C=CC2=CC=CC=C2)[O-:21].CO 10=20;20,21=21
[H:20][OH+:21]C1(CCC2(C(=C1C)CCC2=O)C)NC(C(C)C)C(=O)O.CC(C)C(C(=O)[O-:10])N>>[H:20][O:10]C(=O)C(C(C)C)N.CC1=C2CCC(=O)C2(CCC1(NC(C(C)C)C(=O)O)[OH:21])C 10=20;20,21=21
CCOC(=O)C1CCCC[C:20]1([O-:10])[O:21]CC>>CC[O-:21].CCOC(=O)C1CCCC[C:20]1=[O:10] 10=20;20,21=21
C[C+:20](C)CCC[C:11]1=[CH:10]CCC1.O>>C[C:20]1(C)CCC[C+:11]2[CH:10]1CCC2.O 10,11=10,20
[H:20][C:21]1([CH+:22]C(=CO1)C)C(C)C.[F-:10]>>[H:20][F:10].CC1=CO[C:21](=[CH:22]1)C(C)C 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C(C#N)[O-:10]>>[H:20][O:10]CC#N.OS(=O)(=O)[O-:21] 10=20;20,21=21
COC1=CC=C(C=C1)[CH:20]=[O:21].C=CC[NH2:10]>>COC1=CC=C(C=C1)[CH:20]([NH2+:10]CC=C)[O-:21] 10=20;20,21=21
[H:20][OH:21].CCN1CCC23C=CCCC2(C1CC4=C3C(=C(C=C4)OC)[O-:10])O.N#N.[K+]>>[H:20][O:10]C1=C(C=CC2=C1C34CCN(C(C2)C3(CCC=C4)O)CC)OC.[OH-:21].N#N.[K+] 10=20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]OC(=C1)Br>>C[C:20](=O)[CH:10]1[CH+:11]C=C(O1)Br 10,11=10,20
CCO[C:20](CCC(=O)NC)([OH:10])[OH+:21]C>>CCO[C:20](=[OH+:10])CCC(=O)NC.C[OH:21] 10=20;20,21=21
C[NH+:21](C)[C:20]([O-:10])(OC)Cl>>C[NH:21]C.CO[C:20](=[O:10])Cl 10=20;20,21=21
[H:20][CH:21](C)[C:22](=[O:23])CCC1(CCCCC1=O)C.[OH-:10]>>[H:20][OH:10].C[CH:21]=[C:22](CCC1(CCCCC1=O)C)[O-:23] 10=20;22,23=23;20,21=21,22
[B-]([O:10]CC)(F)(F)F.C[Si:20](C)(C)C[C+]=C(C1CCC(=O)N1)C2=CC=CC=C2>>[B-]([O+:10](CC)[Si-:20](C)(C)(C)C[C+]=C(C1CCC(=O)N1)C2=CC=CC=C2)(F)(F)F 10=20,
CC[C:11](=[CH2:10])[OH:12].[Br:20][Br:21]>>CC[C:11](=[OH+:12])[CH2:10][Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
CC12CC[C:20](=[N+:21]3CCCC3C(=O)[O-])C=C1CCC2=O.[OH-:10].C1CC([NH2+]C1)C(=O)[O-].O>>CC12CC[C:20](C=C1CCC2=O)([N:21]3CCCC3C(=O)[O-])[OH:10].C1CC([NH2+]C1)C(=O)[O-].O 10=20;20,21=21
[H:20][O+:21]=C(C=C)NCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNC(=[O:21])C=C 10=20;20,21=21
COC1=C2C(=CC=C1)C(=O)C3=CC=C(C(=C3C2=O)OC)[CH2:20][Br:21].C[S+](C)[O-:10].C(=O)(O)[O-]>>COC1=C2C(=CC=C1)C(=O)C3=CC=C(C(=C3C2=O)OC)[CH2:20][O:10][S+](C)C.[Br-:21].C(=O)(O)[O-] 10=20;20,21=21
C1COC(C=C1)([O-])[OH+:11][K:10]>>C1COC(C=C1)([OH:11])[O-].[K+:10] 10,11=11
